US06080862
To 463.0 g (21.7% wt/wt, 203.8 mmol) of a toluene solution of methyl-(1S, 2R, 3S)-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate was added 425 mL of toluene, 70 g (496 mmol) of potassium carbonate and 183 g (2.04 mol) of ethylene carbonate. The resulting mixture was heated to approximately 110° C. over a period of 60 minutes then held at this temperature. The progress of the reaction was monitored by HPLC. The reaction was considered complete when less than 1.0% PAR (peak area ratio) of starting material was detected. After approximately 3 hours at or around 110° C., the reaction was cooled to 70° C. and DI water (700 mL) was added. The mixture was stirred for 15 minutes then the aqueous layer was separated. The organic layer was washed 5% aqueous citric acid solution (500 mL) followed by DI water (500 mL). The organic phase was separated then concentrated under reduced pressure to a viscous oil. The concentrate was diluted with methanol (300 mL) and tetrahydrofuran (500 mL) then a solution of lithium hydroxide monohydrate (28 g, 654 mmol) dissolved in 300 mL of deionized water was added. The resulting solution was heated to reflux (internal temperature 62-65° C.) over approximately 15 minutes and maintained at reflux while monitoring the reaction progress by HPLC. The reaction was considered complete when no intermediates were detected by in-process HPLC analysis. After approximately 12 hours at reflux the reaction was considered complete and the resulting mixture cooled to ambient temperature. DI water (500 mL) was added and the reaction mixture concentrated under reduced pressure to a volume of approximately 1 L. Toluene (760 mL) followed by citric acid (150 g, 833 mmol) was added to the resulting solution and the mixture stirred for 5 minutes. The bottom aqueous layer was drained and the organic layer was washed twice with aqueous brine solution (600 mL). The organic layer was separated and filtered to afford 868.8 g of (+)(1S,2R,3S)]-3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-propoxyindane-2-carboxylic acid as a solution in toluene. HPLC wt/wt assay indicated 11.2% wt/wt (+)(1S,2R,3S)]-3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid. An analytical sample could be obtained by concentration of the toluene in vacuo and recrystallization from 2-propanol. m.p. 125-127° C. A toluene solution of (+)(1S,2R,3S)]-3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid (868.8 g @ 11.2% wt/wt, 192.5 mmol) was concentrated under reduced pressure to a volume of approximately 200 mL. Distillation was discontinued and 2-propanol (500 mL) added to the concentrate. The organic solution was concentrated again under reduced pressure to a volume of approximately 200 mL. Distillation was discontinued and 2-propanol (500 mL) added to the concentrate. The resulting solution in 2-propanol was allowed to stir at ambient temperature for approximately 15 minutes to obtain a homogeneous mixture then diluted with an additional 1000 mL of 2-propanol. The resulting solution was heated to approximately 60° C. over a period of 15-20 minutes under a gentle purge of nitrogen. Heating was discontinued and ethylene diamine (11.6 g, 99.5+%, 192.5 mmol) was added. The reaction mixture was cooled to 30-35° C. over a period of 4 hours. As the solution cooled to 57° C., precipitation of the title compound occurred. The resulting slurry was stirred at ambient temperature for approximately 12 hours then cooled to 0° C. an additional 3 hours before isolation of the title compound via filtration. The product was washed with 3 portions of 2-propanol (300 mL) followed by hexane's (600 mL) chilled to 0-5° C. The product was dried in the vacuum oven for approximately 16 hours at 20-25° C. to afford 91.6 (87%) of the title compound. Anal Calcd. for C30H34NO8 C, 67.15; H, 6.39; N, 2.61. Found, C, 67.2; H,6.48; N, 2.67.

reactant | methyl-(1S, 2R, 3S)-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | COC(=O)[C@@H]1[C@H](C2=CC=C(C=C2[C@H]1C1=C(C=C(C=C1)OC)O)OCCC)C1=CC2=C(C=C1)OCO2 | C28H28O7
reactant | potassium carbonate | 496 mmol, 70 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene carbonate | 2.04 mol, 183 g | C1(OCCO1)=O | C3H4O3
reactant | lithium hydroxide monohydrate | 654 mmol, 28 g | O.[OH-].[Li+]
reactant | citric acid | 833 mmol, 150 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 300 mL | O | H2O
solvent | DI water | 500 mL | O | H2O
solvent | DI water | 700 mL | O | H2O
solvent | toluene | 425 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 203.8 mmol, 463.0 g | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-propoxyindane-2-carboxylic acid | OCCOC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C29H30O8
